Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Anemia - Blood Transfusion 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ male with h/o HCV cirrhosis, HCC s/p liver 
transplant ___ (on tacrolimus), complicated by severe early 
recurrence of hepatitis C and advanced fibrosis. Now undergoing 
treatment with interferon/ribavirin since ___ and telaprevir 
since ___. Routine labs revealed worsening anemia, 
leukopenia, and thrombocytopenia. He was called by ___ 
and asked to come into the hospital for transfusion.  
.  
Patient states he has been well. Denies 
fever/chills/cough/shortness of breath. Denies 
bleeding/bruising. States he was fatigued over the weekend after 
interferon however felt well today and went to work without 
problem.  
.  
Review of Systems: Negative despite what mentioned in HPI.  

 
Past Medical History:
Liver Transplant Hx:  
-___ HCV cirrhosis dx  
- ___ trial of interferon, and ___ trial of 
peg-interferon/ribavirin in ___, but no response  
-___ HCC dx 1.1x0.9cm segment V lesion and 2x1.5cm segment 
VII  
lesion s/p RFA for VI and VII segment lesions  
-___ liver tx  
-Post tx course c/b recurrent HCV cirrhosis confirmed by bx and 
positive HBV serologies  
-___ started PEG-interferon/ribavirin and lamivudine/HBIg, had 
good response with decrease in viral load from 32 million to <2 
million.  
-Post-tx course also c/b cholestatic hepatitis with elevated 
bilirubin. Ultrasound, MRCP, ERCP have shown normal biliary 
anastomosis and no stricturing, and normal hepatic arterial 
anatomy with no hepatic artery thrombosis or stenosis.  
-___: transjugular bx showed >stage II fibrosis in 
transplanted liver ___ HCV recurrence  
-___: grade I esophageal varices on EGD, grade I rectal 
varices seen on c-scope  
.  
Other PMH:  
-Basal cell carcinomas, removed  
-Appendectomy  
 
Social History:
___
Family History:
His brother has melanoma. His mother had breast cancer. Father 
had a TIA, and his paternal grandfather died of a CVA.
 
Physical Exam:
Admission Physical Exam:  
Vitals: 98, 105/61, 79, 18, 99% RA  
General: NAD, Pleasant  
HEENT: No erythema  
Neck: supple  
Heart: regular, no m/r/g  
Lungs: CTA B  
Abdomen: liver transplant scar, soft, mild RUQ tenderness, NABs  

Extremities: No Edema  
Neurological: AOX3, Strength and Sensation grossly intact  
.
Discharge Physical Exam:
Vitals: T 98.4 , 90-100/50-60, 70-80, 18, 96% RA  
General: NAD, Pleasant, resting comfortably  
HEENT: No erythema  
Neck: supple  
Heart: regular, no m/r/g  
Lungs: CTA B  
Abdomen: liver transplant scar healing well, soft, ND, mild RUQ 
tenderness, NABs  
Extremities: No Edema  
Neurological: AOX3, Strength and Sensation grossly intact  

 
Pertinent Results:
Labs on Admission:
___ 08:30AM BLOOD WBC-1.1*# RBC-2.24* Hgb-7.7* Hct-24.6* 
MCV-110* MCH-34.4* MCHC-31.3 RDW-15.3 Plt Ct-38*
___ 08:30AM BLOOD Neuts-62 Bands-0 ___ Monos-7 Eos-1 
Baso-0 ___ Myelos-0
___ 08:30AM BLOOD UreaN-31* Creat-1.1 Na-142 K-3.8 Cl-111* 
HCO3-25 AnGap-10
___ 08:30AM BLOOD ALT-37 AST-39 AlkPhos-107 TotBili-0.6
___ 08:30AM BLOOD Albumin-3.6 Calcium-8.3* Phos-3.1 Mg-1.9
___ 08:30AM BLOOD tacroFK-4.9*

Pertinent Labs:
___ 06:33AM BLOOD WBC-3.4*# RBC-2.45* Hgb-8.2* Hct-24.9* 
MCV-102*# MCH-33.6* MCHC-33.0 RDW-17.9* Plt Ct-35*
___ 06:25AM BLOOD WBC-5.4# RBC-2.65* Hgb-8.9* Hct-26.4* 
MCV-100* MCH-33.5* MCHC-33.6 RDW-18.5* Plt Ct-38*
___ 06:25AM BLOOD Neuts-87.0* Lymphs-10.0* Monos-2.2 
Eos-0.7 Baso-0.1
___ 06:33AM BLOOD Glucose-130* UreaN-29* Creat-1.1 Na-140 
K-3.6 Cl-111* HCO3-25 AnGap-8
___ 06:25AM BLOOD Glucose-120* UreaN-28* Creat-1.1 Na-143 
K-3.9 Cl-112* HCO3-25 AnGap-10
___ 06:33AM BLOOD ALT-34 AST-40 AlkPhos-107 TotBili-1.1
___ 06:25AM BLOOD ALT-30 AST-35 AlkPhos-116 TotBili-1.2
___ 06:33AM BLOOD tacroFK-11.2
___ 06:25AM BLOOD tacroFK-8.7

Serology:
 **FINAL REPORT ___

   HCV VIRAL LOAD (Final ___: 
      HCV RNA detected, less than 43 IU/mL. 

**FINAL REPORT ___

   CMV Viral Load (Final ___: 
      CMV DNA not detected. 

 
Brief Hospital Course:
___ male with h/o HCV cirrhosis, ___ s/p liver 
transplant ___ (on tacrolimus), complicated by severe early 
recurrence of hepatitis C and advanced fibrosis. Now undergoing 
treatment with interferon/Ribavirin since ___ and telaprevir 
since ___. Routine labs revealed worsening anemia, 
leukopenia, and thrombocytopenia.  
.  
# Anemia/Thrombocytopenia/Leukopenia: Likely all secondary to 
patient's current treatment regiment for hepatitis C - 
interferon/Ribavirin/telaprevir. We decreased Ribavirin to 400 
mg in am and 200 mg in pm. CellCept was stopped on admission. 
Tacrolimus was increased to 1mg two times per week. We continued 
Interferon and Telaprevir. On admission the pt was transfused 2 
units of PRBCs. Daily CBCs were obtained and his pancytopenia 
improved with the dosage changes. A CMV viral load was obtained 
and levels were not detected. 
.
# Hepatitic C Cirrhosis s/p Transplant: We continued treatment 
with Interferon and Telaprevir. We decreased the dose of 
Ribavirin as stated above. No evidence of liver decompensation 
was noted on exam or history. Liver function tests remained 
normal. We continued Furosemide at his home dose.  
.
#Transitional: The pt was given a follow up appointment with Dr. 
___ discharge with a script for repeat lab work to 
be performed prior to that time. 
 
Medications on Admission:
EPOETIN ALFA [EPOGEN] - 20,000 unit/mL Solution - SQ Q week  
FAMOTIDINE - (Prescribed upon d/c ) - 20 mg Tablet - 1 Tablet(s) 
 
by mouth every twelve (12) hours  
FILGRASTIM [NEUPOGEN] - (Dose adjustment - no new Rx; Changed  
upon d/c from hospital) - 480 mcg/1.6 mL Solution - 1 
Solution(s)  
Q week Every ___  
FUROSEMIDE - (Dose adjustment - no new Rx) - 20 mg Tablet - 1  
Tablet(s) by mouth DAILY (Daily)  
HYDROCORTISONE ACETATE - (Prescribed upon d/c) - 25 mg  
Suppository - 1 Suppository(s) rectally at bedtime  
LAMIVUDINE [EPIVIR HBV] - 100 mg Tablet - 1 Tablet(s) by mouth  
once a day  
LIDOCAINE HCL - (Prescreibed upon d/c ) - 5 % Ointment - 1  
Ointment(s) every eight (8) hours as needed for rectal 
discomfort  
MYCOPHENOLATE MOFETIL - (Prescribed upon d/c) - 500 mg Tablet -  

1 Tablet(s) by mouth twice a day  
PEGINTERFERON ALFA-2A [PEGASYS] - 180 mcg/mL Solution - inject  
90mcg Q week taken on ___  
RIBAVIRIN - 200 mg Tablet - 2 Tablet(s) by mouth twice a day  
SULFAMETHOXAZOLE-TRIMETHOPRIM - (pt will take ongoing) - 400  
mg-80 mg Tablet - 1 Tablet(s) by mouth once a day  
TACROLIMUS - (Dose adjustment - no new Rx) - 0.5 mg Capsule - 3  

Capsule(s) by mouth as driected  
TELAPREVIR [INCIVEK] - 375 mg Tablet - 2 Tablet(s) by mouth 
three  
times a day  
.  
Medications - OTC  
CALCIUM CARBONATE - (OTC) - 600 mg (1,500 mg) Tablet - 1  
Tablet(s) by mouth once a day  
CHOLECALCIFEROL (VITAMIN D3) [VITAMIN D] - (OTC) - 1,000 unit  
Capsule - 1 Capsule(s) by mouth once a day  
FSH-FLX-PRM-BLKBOR-OM 3,6,9 #5 [OMEGA ___ FATTY ACIDS] - (OTC) 
 
- 400 mg-400 mg-200 mg Capsule - 1 Capsule(s) by mouth once a 
day  
LACTOBACILLUS ACIDOPHILUS - (OTC) - Capsule - 1 Capsule(s) by  
mouth twice a day  
MULTIVITAMIN - (OTC) - Capsule - 1 Capsule(s) by mouth once a  
day  

 
Discharge Medications:
1. epoetin alfa 20,000 unit/mL Solution Sig: One (1)  Injection 
once a week: On ___.  
2. famotidine 20 mg Tablet Sig: One (1) Tablet PO Q12H (every 12 
hours).  
3. filgrastim 480 mcg/1.6 mL Solution Sig: One (1)  Injection 
1X/WEEK (MO).  
4. furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. hydrocortisone acetate 25 mg Suppository Sig: One (1)  Rectal 
at bedtime as needed for hemorrhoids.  
6. lamivudine 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. lidocaine HCl 5 % Ointment Sig: One (1)  Topical every eight 
(8) hours as needed for rectal pain.  
8. Pegasys 180 mcg/mL Solution Sig: inject 90mcg Q week on 
___  Subcutaneous once a week.  
9. ribavirin 200 mg Capsule Sig: Two (2) Capsule PO QAM (once a 
day (in the morning)).  
10. ribavirin 200 mg Capsule Sig: One (1) Capsule PO QPM (once a 
day (in the evening)).  
11. sulfamethoxazole-trimethoprim 400-80 mg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
12. telaprevir 375 mg Tablet Sig: Two (2) Tablet PO Q8H (every 8 
hours).  
13. tacrolimus 1 mg Capsule Sig: One (1) Capsule PO 2X/WEEK 
(MO,TH).  
14. multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
15. calcium carbonate 600 mg (1,500 mg) Tablet Sig: One (1) 
Tablet PO once a day.  
16. cholecalciferol (vitamin D3) 1,000 unit Capsule Sig: One (1) 
Capsule PO once a day.  
17. fsh-flx-prm-blkbor-om 3,6,9 #5 ___ mg Capsule Sig: 
One (1) Capsule PO once a day.  
18. lactobacillus acidophilus     Capsule Sig: One (1) Capsule 
PO twice a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
- Hepatitis C Infection
- Hepatitis C Cirrhosis with Fibrosis
- Status Post Liver Transplant
- Pancytopenia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

It was a pleasure caring for you at ___ 
___ while you were admitted with low blood cell 
counts. It was felt that your low blood cell counts were 
secondary to your immunosuppresion and hepatitis C treatment. 
You were given two blood transfusions and several changes were 
made to your medications. 

The following changes were made to your medications: 
-- CHANGE Ribavirin to 400mg in the morning and 200mg in the 
evening
-- STOP Cellcept
-- CHANGE Tacrolimus to 1mg twice weekly

Please follow up with Dr. ___ at the ___ on ___ for repeat lab testing and follow up. 
 
Followup Instructions:
___